US04711895
A solution of 246 mg (1 mmole) of 3-chloro-4-t-butyldimethylsilylolxy-2-cyclopentenone in 5 ml of ether was added at -78° C. to a solution of 4-phenoxybutyllithium prepared from 1 equivalent of 4-phenoxybutyl bromide and 2 equivalents of t-butyllithium at -78° C. in 10 ml of ether. The mixture was stirred for 1.5 hours, and an aqueous solution of ammonium chloride was added. The reaction mixture was extracted with ether, dried over anhydrous magnesium sulfate, and concentrated. The resulting oily product was dissolved in 10 ml of tetrahydrofuran, and 2.4 ml of a 1 M tetrahydrofuran solution of tetrabutyl ammonium fluoride was added. The mixture was stirred for 10 hours. A saturated aqueous solution of sodium chloride was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated. The concentrate was chromatographed on a silica gel column to give 237 mg (84%) of 2-chloro-4-(4-phenoxybutyl)cyclopent-2-ene-1,4-diol.

reactant | 4-phenoxybutyllithium | O(C1=CC=CC=C1)CCCC[Li]
reactant | 4-phenoxybutyl bromide | 1 equivalent | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
reactant | t-butyllithium | 2 equivalents | C(C)(C)(C)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ether | 5 ml | CCOCC | C4H10O
reactant | ether | 10 ml | CCOCC | C4H10O
product | 2-chloro-4-(4-phenoxybutyl)cyclopent-2-ene-1,4-diol | 237 mg, 84% | ClC=1C(CC(C1)(O)CCCCOC1=CC=CC=C1)O | C15H19ClO3
